US07250418B2
Preparation of 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine but substituting benzyl (3R,4S)-3-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate and making non-critical variations provided the title compound as an oil: 1H NMR (CDCl3) δ 1.15, 1.22–1.34, 2.45, 2.71, 2.89, 3.06, 3.22, 3.41, 3.51, 3.65, 3.85, 4.51, 5.32, 6.88, 7.02, 7.24; IR (liq.) 2971 (s), 2935, 2496 (w), 2446, 2402 (w), 2261 (w), 2072 (w), 1605, 1566 (s), 1483 (s), 1441, 1395, 1287 (s), 1230 (s), 1045 (s) cm−1 HRMS (ESI) calcd for C21H29N4O2Cl+H1 405.2057. found 405.2044.

reactant | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CNC[C@@H]1OCC)CC | C20H26Cl2N4O
reactant | benzyl (3R,4S)-3-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OCC1=CC=CC=C1)CC | C29H35ClN4O4
product | 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CNC[C@@H]1OCC)CC | C21H29ClN4O2
